US07723326B2
To a solution of (2-amino-5-methyl-phenyl)-methanol (18.08 mmol, 2.48 g) in 50 mL CH2Cl2 was added Et3N (20 mmol, 2.8 mL) was added BOC2O and the reaction was allowed to stir overnight at r.t. for two days. The reaction mixture was washed with dilute HCl solution. The organic layer was separated, dried over Na2SO4, filtered and the solvent was removed in vacuo. (2-Hydroxymethyl-4-methyl-phenyl)-carbamic acid tert-butyl ester was obtained as a golden yellow thick oil (4.2 g) which was used in the next step without purification. MS (electrospray): mass calculated for C13H19NO3, 237.14; m/z found 238, [M+H]+.

reactant | (2-amino-5-methyl-phenyl)-methanol | 18.08 mmol, 2.48 g | NC1=C(C=C(C=C1)C)CO | C8H11NO
reactant | Et3N | 20 mmol, 2.8 mL | CCN(CC)CC | C6H15N
reactant | BOC2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-Hydroxymethyl-4-methyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C)CO)=O | C13H19NO3
